US08865726B2
To a solution of (S)-2-amino-2-(3-chlorophenyl)ethanol hydrochloride (500 mg, 2.40 mmol) in water (12 mL) at 0° C. was added potassium hydroxide (809 mg, 14.4 mmol) followed by THF (12 mL) and the reaction was stirred at 0° C. for 20 minutes. Triphosgene (713 mg, 2.40 mmol) was added and the reaction was stirred at 0° C. for 2 hours. The reaction was poured into EtOAc and the organic phase washed with 1N HCl, 1N NaOH and brine. After drying over MgSO4, concentration yielded (S)-4-(3-chlorophenyl)oxazolidin-2-one (278 mg, 58.5% yield) as an oil.

reactant | (S)-2-amino-2-(3-chlorophenyl)ethanol hydrochloride | 2.40 mmol, 500 mg | Cl.N[C@H](CO)C1=CC(=CC=C1)Cl
reactant | potassium hydroxide | 14.4 mmol, 809 mg | [OH-].[K+]
reactant | THF | 12 mL | C1CCOC1 | C4H8O
reactant | Triphosgene | 2.40 mmol, 713 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | water | 12 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-4-(3-chlorophenyl)oxazolidin-2-one | 278 mg, 58.5% yield | ClC=1C=C(C=CC1)[C@@H]1NC(OC1)=O | C9H8ClNO2
